US06809108B1
(2R)-1-{(2S,4S)-4-acetoxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide
A solution of 40 mg of (2R)-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}-1-{(2S,4R)-4-(methylsulfonyloxy)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxyamide and 30 mg of tetrabutylammonium acetate in 1 ml of N,N-dimethylformamide was stirred at 85° C. for 15 hours under heating. The reaction liquid was diluted with ethyl acetate, successively washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified with a preparative thin-layer chromatography (Kieselgel™ 60F254, Art. 5744 (Merck), chloroform/methanol/28% aqueous ammonia=100/8/1), to provide 14 mg of the title compound as a colorless oily substance.

reactant | (2R)-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}-1-{(2S,4R)-4-(methylsulfonyloxy)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxyamide | 40 mg | C1(CCCCC1)CN1C[C@H](CCC1)CNC(=O)C[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C46H60N4O6S
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium acetate | 30 mg | C(C)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-1-{(2S,4S)-4-acetoxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide | 14 mg | C(C)(=O)O[C@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CN(CCC1)CC1CCCCC1 | C46H58N4O5
